US07465815B2
2-Bromo-4-(4-isopropylbenzyl)-5-methoxy-1,3-dimethylbenzene
To a solution of 2-(4-isopropylbenzyl)-1-methoxy-3,5-dimethylbenzene obtained in Reference Example 213 (3.45 g, 12.9 mmol) in acetonitrile (40 mL) was added N-bromosuccinimide (2.29 g, 12.9 mmol) with ice-cooling, and the mixture was stirred for 30 minutes. Water was added to the reaction solution, which was extracted with ethyl acetate, and then the organic layer was dried over anhydrous sodium sulfate, was filtered, and then was concentrated under reduced pressure. Ethyl acetate-hexane (1:9) was added to the residue, and the precipitated crystals were filtered, and the filtrate was concentrated to obtain 4.50 g (yield is quantitative) of the title compound. Oily matter.

reactant | 2-(4-isopropylbenzyl)-1-methoxy-3,5-dimethylbenzene | C(C)(C)C1=CC=C(CC2=C(C=C(C=C2C)C)OC)C=C1 | C19H24O
reactant | N-bromosuccinimide | 12.9 mmol, 2.29 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-Bromo-4-(4-isopropylbenzyl)-5-methoxy-1,3-dimethylbenzene | BrC1=C(C=C(C(=C1C)CC1=CC=C(C=C1)C(C)C)OC)C | C19H23BrO
